US05143928
5-[[3,5-Bis(1,1,-dimethylethyl)-4-hydroxyphenyl]methylene]-2-imino-4-thiazolidinone, (Z)-
A mixture of 3,5-di-tert-butyl-4-hydroxybenzaldehyde (9.4 g, 0.04 mole), pseudothiohydantoin (4.7 g, 0.0405 mole), sodium acetate (8.3 g, 0.1 mole), and glacial acetic acid (200 mL) is stirred and heated at reflux for 21 hours. The cooled mixture is added to ice-water and the precipitated solid is filtered and washed with water. The solid residue is dissolved in ether and washed successively with water, aqueous sodium bicarbonate solution, and water. The extract is dried and the solvent is removed to give 9.4 g of a residue. The crude product is recrystallized from methanol-ethyl acetate to give 3.8 g (38%) of 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-imino-4-thiazolidinone, (Z)-, mp 277°-279° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 0.04 mole, 9.4 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | pseudothiohydantoin | 0.0405 mole, 4.7 g | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
reactant | sodium acetate | 0.1 mole, 8.3 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 5-[[3,5-Bis(1,1,-dimethylethyl)-4-hydroxyphenyl]methylene]-2-imino-4-thiazolidinone | 9.4 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=N)=O | C18H24N2O2S
